US04482546
A mixture of 3-bromo-5-chloro-4-methoxyaniline (13.0 g) in toluene (100 ml) was dropwise added to a toluene solution containing 20 g of phosgene at 10° to 20° C. The resulting mixture was gradually heated and, after being refluxed for 30 minutes, cooled to room temperature. The solvent was removed by distillation under reduced pressure to give 3-bromo-5-chloro-4-methoxyphenyl isocyanate (14.4 g). The thus obtained crude substance was added to an isopropanol solution (50 ml) containing triethylamine (1 g). The resultant mixture was allowed to stand at room temperature for 12 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography using a mixture of benzene and tetrahydrofuran as the eluent to give isopropyl N-(3-bromo-5-chloro-4-methoxyphenyl)carbamate (Compound No. 33) (16.4 g) in a yield of 92% (calculated from the starting 3-bromo-5-chloro-4-methoxyaniline).

reactant | 3-bromo-5-chloro-4-methoxyaniline | 13.0 g | BrC=1C=C(N)C=C(C1OC)Cl | C7H7BrClNO
reactant | phosgene | 20 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-bromo-5-chloro-4-methoxyphenyl isocyanate | 14.4 g | BrC=1C=C(C=C(C1OC)Cl)N=C=O | C8H5BrClNO2
